US07122580B2
3-(Biphenyl-4-ylmethoxy)-(2S)-[(4′-trifluoromethyl-biphenyl-4-carbonyl)-amino]-propionic acid
(2S)-Amino-3-(biphenyl-4-ylmethoxy)-propionic acid methyl ester hydrochloride (0.150 g, 0.483 mmol) was reacted with 4′-trifluoromethyl-biphenyl-4-carboxylic acid (0.136 g, 0.483 mmol) as described in general procedure A yielding the 3-(biphenyl-4-ylmethoxy)-(2S)-[(4′-trifluoromethyl-biphenyl-4-carbonyl)-amino]-propionic acid methyl ester. The resulting compound was then hydrolyzed by following the general procedure C to yield the title compound (0.200 g, 80%).

reactant | (2S)-Amino-3-(biphenyl-4-ylmethoxy)-propionic acid methyl ester hydrochloride | 0.483 mmol, 0.150 g | Cl.COC([C@H](COCC1=CC=C(C=C1)C1=CC=CC=C1)N)=O
reactant | 4′-trifluoromethyl-biphenyl-4-carboxylic acid | 0.483 mmol, 0.136 g | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O)(F)F | C14H9F3O2
reactant | 3-(biphenyl-4-ylmethoxy)-(2S)-[(4′-trifluoromethyl-biphenyl-4-carbonyl)-amino]-propionic acid methyl ester | COC([C@H](COCC1=CC=C(C=C1)C1=CC=CC=C1)NC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C31H26F3NO4
product | 3-(Biphenyl-4-ylmethoxy)-(2S)-[(4′-trifluoromethyl-biphenyl-4-carbonyl)-amino]-propionic acid | 0.200 g, 80% | C1(=CC=C(C=C1)COC[C@@H](C(=O)O)NC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C1=CC=CC=C1 | C30H24F3NO4
